US07067270B2
Synthesis of Theophylline-LC Derivative (1)
1 mg of theophylline-8-butanoic acid (Sigma) was dissolved in 2 ml of a 0.1 M MES buffer solution. Thereafter, 3.6 mg of WSC hydrochloride and 2.5 mg of NHS were added thereto, and the mixture was stirred at room temperature for 15 minutes. Thereafter, 2.0 mg of ε Amino Caproic Acid (Sigma) was dissolved in 200 μl of 0.1 M MES, and the obtained solution was added to the above reaction product. The obtained mixture was reacted at room temperature for 2 hours. 100 μl of 1M Tris buffer solution (pH 7.5) was added to the mixture, and the reaction was terminated. Thereafter, the obtained reaction product was adsorbed to a column filled with 8 g of ODS silica (YMC-ODS-AQ 120A), followed by elution with a 30% methanol aqueous solution. The eluant was concentrated and then purified by medium-pressure separation chromatography (YAMAZEN Ultrapack ODS-S-4OB).

reactant | theophylline-8-butanoic acid | 1 mg | N1(C)C(=O)N(C)C=2N=C(NC2C1=O)CCCC(=O)O | C11H14N4O4
reactant | WSC hydrochloride | 3.6 mg | CCN=C=NCCCN(C)C.Cl
reactant | Amino Caproic Acid | C(CCC(=O)O)CCN | C6H13NO2
reactant | Tris | 1M, 100 μl, pH 7.5 | C(C(CO)(CO)N)O | C4H11NO3
solvent | MES | 0.1 M | C1COCCN1CCS(=O)(=O)O | C6H13NO4S
solvent | MES | 0.1 M, 200 μl | C1COCCN1CCS(=O)(=O)O | C6H13NO4S
product | Theophylline | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
